US08138175B2
A) ((R)-2-Amino-propyl)-carbamic acid tert-butyl ester
2.0 g (14 mmol) of (R)-propane-1,2-diamine dihydrochloride were charged in the reactor followed by MeOH/H2O (4/1 10 ml). To the resulting solution was added in one portion a solution of 3.8 g (17 mmol) of di-tert-butyl dicarbonate dissolved in MeOH (2 ml). The reaction was cooled to 5° C. 4.4 ml (18 mmol) of aq. 4 M NaOH solution were added dropwise over 2 h. The reaction was allowed to warm to RT. After 17 h, the organic solvents were removed under reduced pressure. 25 ml of EtOAc and 25 ml of water were added. The aqueous phase was adjusted to pH 2-3 with 1 M aq. HCl solution (ca 2 ml). The aqueous phase was separated and washed with 25 ml EtOAc. The organic phases were combined and water (25 ml) was added. The pH was adjusted to pH 2-3 (with 0.5 ml 1 M aq. HCl solution), the organic phase was separated and discarded. The aqueous phases were combined, adjusted to pH 14 by adding ca 2 ml aq NaOH 32% solution and extracted twice with 50 ml CH2Cl2. The organic phases were combined, dried (MgSO4), filtered and concentrated under reduced to afford 1.6 g of the title product as a colorless oil (67% yield, 97% regioselectivity by GC). MS: 175.2 (MH+).

reactant | (R)-propane-1,2-diamine dihydrochloride | 14 mmol, 2.0 g | Cl.Cl.C([C@@H](C)N)N
reactant | MeOH H2O | 10 ml | CO.O
reactant | di-tert-butyl dicarbonate | 17 mmol, 3.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 4 M | [OH-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
product | ((R)-2-Amino-propyl)-carbamic acid tert-butyl ester | 1.6 g, 67% yield | C(C)(C)(C)OC(NC[C@@H](C)N)=O | C8H18N2O2
